US04777176
This Example illustrates the preparation of 7-tert-butyl-4-methyl-3-piperidinomethyl,1,2-dihydronaphthalene (Compound number 3 of Table I). Piperidine hydrochloride (12.6 g 0.103 mol), 6-tert-butyl-1,2,3,4-tetrahydronaphthalen-1-one (80.0 g, 0.04 mol) and paraformaldehyde (2.64 g, 0.088 mol) were refluxed in ethanol (200 ml) with concentrated hydrochloric acid (1 ml) as a catalyst for 48 hours. The reaction mixture was concentrated under reduced pressure and the residue dissolved in water then extracted with diethyl ether. The resulting aqueous solution was neutralized with sodium bicarbonate and extracted with diethyl ether (2×200 ml); the ethereal extracts were dried over magnesium sulphate and concentrated under reduced pressure to give 6-tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one (10.0 g 83% yield) melting at 47°-9°.

reactant | 7-tert-butyl-4-methyl-3-piperidinomethyl,1,2-dihydronaphthalene | C(C)(C)(C)C1=CC=C2C(=C(CCC2=C1)CN1CCCCC1)C | C21H31N
reactant | Piperidine hydrochloride | 0.103 mol, 12.6 g | Cl.N1CCCCC1
reactant | 6-tert-butyl-1,2,3,4-tetrahydronaphthalen-1-one | 0.04 mol, 80.0 g | C(C)(C)(C)C=1C=C2CCCC(C2=CC1)=O | C14H18O
reactant | paraformaldehyde | 0.088 mol, 2.64 g | C=O | CH2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 1 ml | Cl | ClH
product | 6-tert-butyl-2-piperidinomethyl-1,2,3,4-tetrahydronaphthalen-1-one | 10.0 g, 83% yield | C(C)(C)(C)C=1C=C2CCC(C(C2=CC1)=O)CN1CCCCC1 | C20H29NO
